US08334236B2
1.7 g (6.3 mmol) of 1-(5-methyl-3-isoxazolyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid was dissolved in dichloromethane (50 mL), and 3.0 mL (36 mmol) of oxalyl chloride was added thereto. One droplet of N,N-dimethylformamide was added to the above mixture, and the resulting mixture was stirred for one hour at room temperature. The reaction solution was concentrated under reduced pressure, and thus 1-(5-methyl-3-isoxazolyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride was obtained. The acid chloride thus obtained was dissolved in dichloromethane (50 mL), and 0.77 g (6.9 mmol) of 1,3-cyclohexanedione and 1.1 mL (7.5 mmol) of triethylamine were added to the above solution under ice cooling. The mixture was stirred for 30 minutes under ice cooling. 0.97 mL (6.9 mmol) of triethylamine and 0.59 g (6.9 mmol) of acetone cyanohydrin were added to the above mixture, and the resulting mixture was stirred for one hour at 40° C. The reaction mixture was poured into an aqueous solution of citric acid, and the mixture was extracted with dichloromethane. The organic phase was washed with water, dried, and concentrated. The residue was purified by column chromatography (ethyl acetate:n-hexane=1:1 to 9:1), and thus 0.27 g (yield: 12%) of the title compound was obtained as yellow crystals.

reactant | 1-(5-methyl-3-isoxazolyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 6.3 mmol, 1.7 g | CC1=CC(=NO1)N1C(C(=CC2=CC=CN=C12)C(=O)O)=O | C13H9N3O4
reactant | oxalyl chloride | 36 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(5-methyl-3-isoxazolyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride | CC1=CC(=NO1)N1C(C(=CC2=CC=CN=C12)C(=O)Cl)=O | C13H8ClN3O3
